US07414061B2
4-[2-Benzyloxymethyl-1-(4-nitro-phenyl)-1H-imidazol-4-yl]-5-methyl-3-phenyl-isoxazole
As described for Example 63, 4-(2-benzyloxymethyl-1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole (38 mg, 0.11 mmol) using 1-fluoro-4-nitrobenzene instead of 4-fluoroacetophenone was converted to the title compound (41 mg, 80%) which was obtained as a yellow solid. MS: m/e=467.0 [M+H]+.

reactant | 4-(2-benzyloxymethyl-1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole | 0.11 mmol, 38 mg | C(C1=CC=CC=C1)OCC=1NC=C(N1)C=1C(=NOC1C)C1=CC=CC=C1 | C21H19N3O2
reactant | 1-fluoro-4-nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
product | 4-[2-Benzyloxymethyl-1-(4-nitro-phenyl)-1H-imidazol-4-yl]-5-methyl-3-phenyl-isoxazole | 41 mg, 80% | C(C1=CC=CC=C1)OCC=1N(C=C(N1)C=1C(=NOC1C)C1=CC=CC=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C27H22N4O4
